US08183380B2
(1S,4S)-2-Oxa-5-aza-bicyclo[2.2.1]heptane-5-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, (1S,4S)-2-oxa-5-aza-bicyclo[2.2.1]heptane and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=401.6 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | (1S,4S)-2-oxa-5-aza-bicyclo[2.2.1]heptane | [C@@H]12OC[C@@H](NC1)C2 | C5H9NO
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | (1S,4S)-2-Oxa-5-aza-bicyclo[2.2.1]heptane-5-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)N1[C@@H]2CO[C@H](C1)C2 | C24H24N4O2
